US04814343
3-Bromo-2-hydroxy-4-methoxy-alpha-methylbenzenemethanol
64.3 g (0.262 mole) of 3'-bromo-2'-hydroxy-4'-methoxyacetophenone (prepared according to the method of T. M. CRESP et al., J. Chem. Soc. Perkin Trans., Part 1, (1973), 340-345) dissolved in 560 ml of tetrahydrofuran, are added dropwise in the course of 80 minutes and at a temperature of from 13° to 18° C. to a suspension of 13.89 g (0.367 mole) of sodium borohydride in 300 ml of tetrahydrofuran. Thereafter, stirring is continued for 2 hours at ambient temperature. The reaction mixture is decomposed by the addition of 140 ml of tetrahydrofuran containing 3 ml of water, then 60 ml of water are added again thereto. The mixture is acidified by the addition of 415 ml of a 1N aqueous solution of hydrochloric acid. The tetrahydrofuran is removed under reduced pressure and the aqueous phase is extracted 4 times with dichloromethane. The organic phases are dried over anhydrous sodium sulfate and then distilled. The residue obtained(70 g) is used as such in the following step.

reactant | 3'-bromo-2'-hydroxy-4'-methoxyacetophenone | 0.262 mole, 64.3 g | BrC=1C(=C(C=CC1OC)C(C)=O)O | C9H9BrO3
reactant | sodium borohydride | 0.367 mole, 13.89 g | [BH4-].[Na+]
reactant | water | O | H2O
reactant | water | 60 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 560 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | 3-Bromo-2-hydroxy-4-methoxy-alpha-methylbenzenemethanol | BrC=1C(=C(C=CC1OC)C(O)C)O | C9H11BrO3
